US09126981B2
Synthesis of (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(2-tert-butoxycarbonylaminobenzothiazole-4-ylmethyl)propanamide (Compound IV-1)
To a solution of (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(2-tert-butoxycarbonylaminobenzothiazole-4-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-1) (482 mg, 0.58 mmol) was added 25%-piperidine/dichloromethane (4 ml) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=9:1, chloroform:methanol=100:0 and 8:2) to obtain the title compound (353.2 mg, 99%).

reactant | (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(2-tert-butoxycarbonylaminobenzothiazole-4-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 0.58 mmol, 482 mg | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=CC=CC2=C1N=C(S2)NC(=O)OC(C)(C)C)CC(OCC)OCC)NC(OCC2C1=CC=CC=C1C=1C=CC=CC21)=O | C47H56N4O8S
reactant | piperidine dichloromethane | 4 ml | N1CCCCC1.ClCCl
product | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(2-tert-butoxycarbonylaminobenzothiazole-4-ylmethyl)propanamide | 353.2 mg, 99% | N[C@H](C(=O)N(CC1=CC=CC2=C1N=C(S2)NC(=O)OC(C)(C)C)CC(OCC)OCC)CC2=CC=C(C=C2)OC(C)(C)C | C32H46N4O6S
